US07417060B2
To a solution of tert-butyl [(2R)-2-hydroxy-2-phenylethyl](2-[3′-(3-methylbutyl)-4′-[[(methylsulfonyl)amino]carbonyl]-4-biphenylyl]ethyl]carbamate (380 mg) in ethyl acetate (2.0 ml) was added 4N hydrogen chloride in ethyl acetate (2.0 ml), and the mixture was stirred at room temperature for 12 hours. The resultant solid was collected by filtration and dried to give 4′-[2-[[(2R)-2-hydroxy-2-phenylethyl]amino]ethyl]-3-(3-methylbutyl)-N-(methylsulfonyl)-4-biphenylcarboxamide hydrochloride (80 mg).

reactant | tert-butyl [(2R)-2-hydroxy-2-phenylethyl](2-[3′-(3-methylbutyl)-4′-[[(methylsulfonyl)amino]carbonyl]-4-biphenylyl]ethyl]carbamate | 380 mg | O[C@@H](CN(C(OC(C)(C)C)=O)CCC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)NS(=O)(=O)C)CCC(C)C)C1=CC=CC=C1 | C34H44N2O6S
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 2.0 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 2.0 ml | C(C)(=O)OCC | C4H8O2
product | 4′-[2-[[(2R)-2-hydroxy-2-phenylethyl]amino]ethyl]-3-(3-methylbutyl)-N-(methylsulfonyl)-4-biphenylcarboxamide hydrochloride | 80 mg | Cl.O[C@@H](CNCCC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)NS(=O)(=O)C)CCC(C)C)C1=CC=CC=C1 | InChI=1S/C29H36N2O4S.ClH/c1-21(2)9-12-26-19-25(15-16-27(26)29(33)31-36(3,34)35)23-13-10-22(11-14-23)17-18-30-20-28(32)24-7-5-4-6-8-24;/h4-8,10-11,13-16,19,21,28,30,32H,9,12,17-18,20H2,1-3H3,(H,31,33);1H/t28-;/m0./s1
